US05663297
A solution of 4.2 g. of H-Asp(OBzl)-Val-OBzl.TFA in 50 ml of ethyl acetate is treated in succession with 2.72 g of Boc-Gly-OSu and 0.88 ml of N-methylmorpholine and then stirred at 20° C. for 72 hours. The reaction mixture is partitioned between ethyl acetate and water and the organic phase is washed with 5% KHSO4 /10% K2SO4 solution, water, saturated NaHCO3 solution, water and saturated NaCl solution. After drying the solution is concentrated. The residue is dissolved in 30 ml of trifluoroacetic acid held at 20° C. for 20 minutes and then concentrated. After crystallization from ethyl acetate/hexane there are obtained 3.5 g of H-Gly-Asp(OBzl)-Val-OBzl, TFA (1:1), m.p. 150°-151° C.

reactant | H-Asp(OBzl)-Val-OBzl.TFA | N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1.FC(F)(F)C(=O)O
reactant | Boc-Gly-OSu | 2.72 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
reactant | N-methylmorpholine | 0.88 ml | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | H-Gly-Asp(OBzl)-Val-OBzl | 3.5 g | NCC(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C25H31N3O6
